US07947692B2
A mixture of 5-amino-4,6-dichloro-pyrimidine (5.0 g, 30.49 mmol) in acetone (30 mL) at 25° C. was treated with benzoyl isothiocyanate (5.5 g, 33.54 mmol). The mixture was stirred at reflux for 6 h and then was cooled to 25° C. The resulting solids were collected by filtration, washed with acetone and petroleum ether and dried in vacuo to afford N-(7-chloro-thiazolo[5,4-d]pyrimidin-2-yl)-benzamide (7.87 g, 79%) as an off-white solid. The NMR spectrum obtained on the sample is compatible with its structure.

reactant | 5-amino-4,6-dichloro-pyrimidine | 30.49 mmol, 5.0 g | NC=1C(=NC=NC1Cl)Cl | C4H3Cl2N3
reactant | benzoyl isothiocyanate | 33.54 mmol, 5.5 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | N-(7-chloro-thiazolo[5,4-d]pyrimidin-2-yl)-benzamide | 7.87 g, 79% | ClC=1C2=C(N=CN1)SC(=N2)NC(C2=CC=CC=C2)=O | C12H7ClN4OS
